US08440662B2
Step 4: 5-(2-(4-(3-(4-(dimethylcarbamoyl)phenyl)ureido)phenyl)-4-morpholino-quinazolin-7-yl)furan-2-carboxylic acid (See, Scheme 11)
To a 100 mL round bottom flask, methyl 5-(2-(4-(3-(4-(dimethylcarbamoyl)phenyl)ureido)phenyl)-4-morpholino-quinazolin-7-yl)furan-2-carboxylate (0.1 g, 0.00016 mol) in MeOH (2 mL), THF (2 mL) and water (2 mL) was added. Subsequently, lithium hydroxide monohydrate (0.034 g, 0.0008 mol) was added and stirred at 25° C. for 12 h. The volatiles were evaporated under reduced pressure, the residue redissolved in water and acidified with 2 N HCl to obtain a pH of 5.0. The volatiles were evaporated under reduced pressure and the residue was stirred with water and filtered. The obtained solid was washed with MeOH to yield the title compound [0.06 g, 61%]. 1H NMR (300 MHz, DMSO-d6): δ 12.12 (s, 1H), 8.57 (s, 1H), 8.54 (s, 1H), 8.25 (s, 1H), 8.05 (d, J=9.0 Hz, 2H), 7.97 (d, J=7.5 Hz, 2H), 7.87 (d, J=8.4 Hz, 1H), 7.79 (d, J=8.4 Hz, 2H), 7.37 (d, J=8.4 Hz, 2H), 7.28 (s, 2H), 7.04 (s, 1H), 3.85 (s, 8H), 2.98 (s, 6H). LC-MS (ESI): Calculated mass: 606.2; Observed mass: 607.2 (RT: 0.63 min).

reactant | methyl 5-(2-(4-(3-(4-(dimethylcarbamoyl)phenyl)ureido)phenyl)-4-morpholino-quinazolin-7-yl)furan-2-carboxylate | 0.00016 mol, 0.1 g | CN(C(=O)C1=CC=C(C=C1)NC(NC1=CC=C(C=C1)C1=NC2=CC(=CC=C2C(=N1)N1CCOCC1)C1=CC=C(O1)C(=O)OC)=O)C | C34H32N6O6
reactant | lithium hydroxide monohydrate | 0.0008 mol, 0.034 g | O.[OH-].[Li+]
solvent | MeOH | 2 mL | CO | CH4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | 5-(2-(4-(3-(4-(dimethylcarbamoyl)phenyl)ureido)phenyl)-4-morpholino-quinazolin-7-yl)furan-2-carboxylic acid | 0.06 g, 61% | CN(C(=O)C1=CC=C(C=C1)NC(NC1=CC=C(C=C1)C1=NC2=CC(=CC=C2C(=N1)N1CCOCC1)C1=CC=C(O1)C(=O)O)=O)C | C33H30N6O6
